US04731368
Preparation of 6-[3-(Dimethylamino)propyl]thieno[2,3-c]pyridin-7(6H)-one
To a solution of thieno[2,3-c]pyridin-7(6H)-one (1.82g, 12 mmol) in dry dimethylformamide (18 ml), under a nitrogen atmosphere, was added 3-(dimethylamino)propyl chloride hydrochloride (2.25 g, 14.4 mmol). Sodium hydride in mineral oil (60%, 1.35 g, 33 mmol) was carefully added to this solution and the mixture was warmed at 80° C. for 3 hours. The cooled reaction mixture was diluted with ice-water and the crude product was extracted into methylene chloride. This organic layer was extracted with dilute hydrochloric acid and the acid layer was made basic with sodium hydroxide solution. After extraction of the product into methylene chloride, this solution was dried over anhydrous sodium sulfate, filtered and evaporated to give an oily product (2.7 g, 95% yield) which contained less than 12% of the by-product resulting from O-alkylation. Some of this material was further purified by formation of the hydrochloride salt upon treatment with ethanolic HCl. Recrystallization from hot ethanol gave pure salt, m.p. 185°-190° C.

reactant | thieno[2,3-c]pyridin-7(6H)-one | 12 mmol, 1.82g | S1C=CC2=C1C(NC=C2)=O | C7H5NOS
reactant | 3-(dimethylamino)propyl chloride hydrochloride | 14.4 mmol, 2.25 g | Cl.CN(CCCCl)C
reactant | Sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 6-[3-(Dimethylamino)propyl]thieno[2,3-c]pyridin-7(6H)-one | 2.7 g, 95% yield | CN(CCCN1C(C2=C(C=C1)C=CS2)=O)C | C12H16N2OS
